US07544215B2
Preparation of 2-{2-[(2-hydroxyethyl)amino]4-methoxyphenyl}-5-nitro-1H-benzo-[de]isoquinolin-1,3(2H)-dione
The reaction of N-(2-hydroxyethyl)-5-methoxy-2-aminoaniline with 3-nitronaphthalene-1,8-dicarboxylic anhydride in imidazole (synthesis and work-up as in Example 2, Step 1) afforded the product as a dark-red powder. For purification, the crude product in ethanol/acetone was filtered through a bed of silica gel UV/Vis (CHCl3: λmax: 411, 524 nm

reactant | N-(2-hydroxyethyl)-5-methoxy-2-aminoaniline | OCCNC1=C(C=CC(=C1)OC)N | C9H14N2O2
reactant | 3-nitronaphthalene-1,8-dicarboxylic anhydride | [N+](=O)([O-])C=1C=C2C3=C(C=CC=C3C1)C(=O)OC2=O | C12H5NO5
solvent | 2-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-6-nitro-1H-benzo [de]isoquinolin-1,3(2H)-dione | C(C)N(C1=CC=C(C=C1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O)CCO | C22H19N3O5
product | 2-{2-[(2-hydroxyethyl)amino]4-methoxyphenyl}-5-nitro-1H-benzo-[de]isoquinolin-1,3(2H)-dione | OCCNC1=C(C=CC(=C1)OC)N1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)[N+](=O)[O-])=O | C21H17N3O6
